US05177075
N-(1,2,3,4-Tetrahydro-1-oxo-5-isoquinolinyl)acetamide
To 1.0 g (6.17 mmol) of 5-amino-3,4-dihydro-1(2H)-isoquinolinone was added 3 ml of acetic anhydride and the solution was warmed on a steam bath for one hour. It was poured into ice water and heated on a steam bath until all material dissolved. The solution was allowed to cool, the solid was collected, washed with water, and dried to give 0.7 g (56%) of product; mp 244°-246°.

reactant | 5-amino-3,4-dihydro-1(2H)-isoquinolinone | 6.17 mmol, 1.0 g | NC1=C2CCNC(C2=CC=C1)=O | C9H10N2O
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-(1,2,3,4-Tetrahydro-1-oxo-5-isoquinolinyl)acetamide | 0.7 g, 56% | O=C1NCCC2=C(C=CC=C12)NC(C)=O | C11H12N2O2
